US08193194B2
The (R)-2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoic acid (7.9 mmol), 1-phenyl piperazine (1.2 mL, 7.9 mmol), HATU (3.0 g, 7.9 mmol), NaHCO3 (660 mg, 7.9 mmol) and CH2Cl2 (10 mL): DMF (10 ml) were stirred at rt for 19 h. The solution was poured into an ice-water mixture (100 ml), followed by an extraction with CH2Cl2 (3×75 mL). The organic layer was dried over MgSO4 and evaporated in vacuo. After evaporating the solvents under reduced pressure, the residue was purified by silica gel chromatography using 20-50% ethyl acetate in hexane gave (R)-2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperazin-1-yl)propan-1-one (1.96 g) as white solid. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=369.47; tR=3.36 min.

reactant | (R)-2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoic acid | 7.9 mmol | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)O)C | C12H14FNO2
reactant | 1-phenyl piperazine | 7.9 mmol, 1.2 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | HATU | 7.9 mmol, 3.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 7.9 mmol, 660 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperazin-1-yl)propan-1-one | 1.96 g | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=CC=C1)C | C22H26FN3O
